US09085534B2
3-[(2,3-dihydro-1,4-benzodioxin-2-ylmethyl)amino]pyridine-4-carboxylic acid
The title compound was prepared in 6% yield from 2,3-dihydro-1,4-benzodioxin-2-ylmethylamine and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 3. 1H NMR (400 MHz, DMSO-d6): δ 13.43 (br s, 1H), 8.37 (s, 1H), 7.87 (d, 1H, J=5.0 Hz), 7.77 (br s, 1H), 7.57 (d, 1H, J=5.0 Hz), 6.80-6.90 (m, 4H), 4.37-4.48 (m, 2H), 4.02-4.07 (m, 1H), 3.55-3.75 (m, 2H). [M+H] calc'd for C15H14N2O4, 287; found 287.

reactant | 2,3-dihydro-1,4-benzodioxin-2-ylmethylamine | O1C(COC2=C1C=CC=C2)CN | C9H11NO2
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-[(2,3-dihydro-1,4-benzodioxin-2-ylmethyl)amino]pyridine-4-carboxylic acid | 6% yield | O1C(COC2=C1C=CC=C2)CNC=2C=NC=CC2C(=O)O | C15H14N2O4
